US05225402
To a solution of 1-(4-methoxycarbonylphenyl)-3,4-dihydrocarbostyril (1.84 g) in methanol (40 ml) is added a 5% aqueous sodium hydroxide solution (20 ml) and the mixture is stirred at room temperature overnight. Methanol is distilled off under reduced pressure and to the residue is added water. After the solution is washed with dichloromethane, the aqueous layer is made acidic with concentrated hydrochloric acid and extracted with diethyl ether and dried over magnesium sulfate. The solvent is distilled off under reduced pressure and the resulting residue is purified by silica gel column chromatography, followed by recrystallization from ethanol to give 1-(4-carboxyphenyl)-3,4-dihydrocarbostyril (0.87 g) as pale yellow powders, m.p. 265°-270° C.

reactant | 1-(4-methoxycarbonylphenyl)-3,4-dihydrocarbostyril | 1.84 g | COC(=O)C1=CC=C(C=C1)N1C(=O)CCC2=CC=CC=C12 | C17H15NO3
reactant | sodium hydroxide | 20 ml | [OH-].[Na+]
solvent | methanol | 40 ml | CO | CH4O
product | 1-(4-carboxyphenyl)-3,4-dihydrocarbostyril | 0.87 g | C(=O)(O)C1=CC=C(C=C1)N1C(=O)CCC2=CC=CC=C12 | C16H13NO3
